US09169259B2
To a solution of methyl 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (55 mg, 0.11 mmol) in dioxane (5 mL) and water (5 mL) was added NaOH (50 mg, 1.25 mmol), then the mixture was heated to 40° C. with stirring for 3 h. The solution was concentrated in vacuo, washed with dichloromethane (10 mL×3), then water (10 mL) was added and the aqueous phase was adjusted to pH=2 by addition of 2M HCl. The solid formed was filtered and washed with water (1 mL) and MeOH (1 mL) to give 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (50 mg, 93%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.22 (s, 1H), 9.05 (s, 1H), 8.52 (s, 1H), 8.45 (s, 1H), 8.22 (d, 1H, J=8.1 Hz), 8.12 (d, 1H, J=7.5 Hz), 8.01 (s, 1H), 7.72 (t, 1H, J=7.5 Hz), 7.52 (t, 1H, J=7.8 Hz), 6.72 (d, 1H, J=7.5 Hz), 6.15 (d, 1H, J=8.4 Hz), 3.73-3.68 (m, 1H), 3.52-3.43 (m, 2H), 3.13 (t, 1H, J=10.5 Hz), 2.16-2.12 (m, 1H), 1.98-1.93 (m, 1H), 1.78-1.71 (m, 1H), 0.86 (s, 9H). LC-MS: [M+H]+, 457, tR=1.859 min, HPLC: 96.72% at 214 nm, 98.12% at 254 nm, tR=4.654 min.

reactant | methyl 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.11 mmol, 55 mg | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C27H30N6O2
reactant | NaOH | 1.25 mmol, 50 mg | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 50 mg, 93% | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C26H28N6O2
